US07041388B1
b) Synthesis of 3,4-bis(2-methylbutyloxy)bromobenzene:
1,2-Bis(2-methylbutyloxy)benzene (338 g, 1.35 mol) together with 2.5 l of acetonitrile was placed in a reaction vessel, cooled to 0° C. and admixed with 264 g (1.48 mol) of N-bromosuccinimide. The mixture was warmed to RT and stirred for another 90 minutes. After taking off the acetonitrile, the residue was admixed with toluene and water and the phases were separated. After shaking the aqueous phase with toluene and drying the organic phase over Na2SO4, the toluene was taken off. The crude product was purified by double fractional distillation under reduced pressure. This gave the product as a colorless oil (145° C., 1.3 mbar): 275 g (62%).

reactant | 1,2-Bis(2-methylbutyloxy)benzene | 1.35 mol, 338 g | CC(COC1=C(C=CC=C1)OCC(CC)C)CC | C16H26O2
reactant | acetonitrile | 2.5 l | C(C)#N | C2H3N
reactant | N-bromosuccinimide | 1.48 mol, 264 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
product | 3,4-bis(2-methylbutyloxy)bromobenzene | CC(COC=1C=C(C=CC1OCC(CC)C)Br)CC | C16H25BrO2
